US08193207B2
A mixture of 2-(cis-4-hydroxycyclohexyl)-2,8-diazaspiro[4.5]decan-1-one (20 mg, 0.08 mmol), 4-fluorobenzonitrile (12.3 mg, 0.102 mmol) and N,N-diisopropylethylamine (44 μL, 0.25 mmol) in N-methylpyrrolidinone (0.5 mL) was irradiated under microwave at 200° C. for 15 min. The mixture was diluted with methanol (1.3 mL), and purified by Prep-HPLC to give 8-(3-fluoropyridin-2-yl)-2-(cis-4-hydroxycyclohexyl)-2,8-diazaspiro[4.5]decan-1-one. LCMS: (M+H)+=348.2.

reactant | 2-(cis-4-hydroxycyclohexyl)-2,8-diazaspiro[4.5]decan-1-one | 0.08 mmol, 20 mg | O[C@H]1CC[C@H](CC1)N1C(C2(CC1)CCNCC2)=O | C14H24N2O2
reactant | 4-fluorobenzonitrile | 0.102 mmol, 12.3 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | N,N-diisopropylethylamine | 0.25 mmol, 44 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-methylpyrrolidinone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | methanol | 1.3 mL | CO | CH4O
product | 8-(3-fluoropyridin-2-yl)-2-(cis-4-hydroxycyclohexyl)-2,8-diazaspiro[4.5]decan-1-one | FC=1C(=NC=CC1)N1CCC2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CC1 | C19H26FN3O2
